US08404692B2
2-{4-[4-(6,8-Dimethyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]pyrazin-7-yl)-pyrimidin-2-ylamino]-phenyl}-N-(2-methoxy-ethyl)-acetamide
A solution of the pyrimidine acid Example I-70 {4-[4-(6,8-dimethyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]pyrazin-7-yl)-pyrimidin-2-ylamino]-phenyl}-acetic acid (0.05 g), EDCI (1.2 eq., 0.028 g) and HOBt (1.2 eq., 0.02 g) in THF (3 mL) was stirred at room temperature under nitrogen for 1 hour. 2-Methoxyethylamine (1.2 eq., 0.013 mL) was then added and the resulting reaction stirred at room temperature for 16 hours. Water (5 mL) was added and the solvent removed under vacuum to leave an aqueous suspension which was extracted with dichloromethane (2×2 mL). The combined organics were stripped to yield the crude product as a yellow oil (0.0656 g). Purification of the crude material (prep. HPLC) produced the title compound as a white solid (0.0269 g, 47%, with a purity of 98.37% by LCMS.

reactant | pyrimidine | N1=CN=CC=C1 | C4H4N2
reactant | {4-[4-(6,8-dimethyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]pyrazin-7-yl)-pyrimidin-2-ylamino]-phenyl}-acetic acid | 0.05 g | CC1=C(C(=C2N1CCNC2=O)C)C2=NC(=NC=C2)NC2=CC=C(C=C2)CC(=O)O | C21H21N5O3
reactant | EDCI | 0.028 g, 1.2 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.02 g, 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-Methoxyethylamine | 0.013 mL, 1.2 eq. | COCCN | C3H9NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | Water | 5 mL | O | H2O
product | 2-{4-[4-(6,8-Dimethyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]pyrazin-7-yl)-pyrimidin-2-ylamino]-phenyl}-N-(2-methoxy-ethyl)-acetamide | CC1=C(C(=C2N1CCNC2=O)C)C2=NC(=NC=C2)NC2=CC=C(C=C2)CC(=O)NCCOC | C24H28N6O3
